### PR TITLE
[Merged by Bors] - feat(Topology/Sets/Opens): Heyting-algebra operations on open sets

### PR DESCRIPTION
**Pull request by thomaskwaring**
Add expressions for the Heyting-algebra operations on the frame of opens subsets of a topological space.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Sets/Opens.lean [hunk 1]
```diff
@@ -256,6 +256,21 @@ def frameMinimalAxioms : Frame.MinimalAxioms (Opens α) where
 
 instance instFrame : Frame (Opens α) := fast_instance% .ofMinimalAxioms frameMinimalAxioms
 
+theorem mem_himp {U V : Opens α} {x : α} : x ∈ U ⇨ V ↔ ∃ W : Opens α, W ⊓ U ≤ V ∧ x ∈ W := by
+  simp [himp_eq_sSup]
+
+theorem himp_eq {U V : Opens α} : Opens.interior ((U : Set α)ᶜ ∪ V) = U ⇨ V := by
```
Comment (eric-wieser) [inline Mathlib/Topology/Sets/Opens.lean]: Theorem names should match the order of the symbols. Here perhaps the name is good and the statement is backwards.
```suggestion
theorem himp_eq {U V : Opens α} : U ⇨ V = Opens.interior ((U : Set α)ᶜ ∪ V) := by
```
`himp_def` (also in this direction) is also a good name.

File: Mathlib/Topology/Sets/Opens.lean [hunk 2]
```diff
@@ -256,6 +256,21 @@ def frameMinimalAxioms : Frame.MinimalAxioms (Opens α) where
...
+  ext x
+  simp_rw [coe_interior, _root_.mem_interior, SetLike.mem_coe, mem_himp, ← SetLike.coe_subset_coe,
+    coe_inf, Set.inter_subset]
+  exact ⟨fun ⟨W, hsub, hW, hx⟩ => ⟨⟨W, hW⟩, hsub, hx⟩, fun ⟨⟨W, hW⟩, hsub, hx⟩ => ⟨W, hsub, hW, hx⟩⟩
+
+theorem mem_compl {U : Opens α} {x : α} : x ∈ Uᶜ ↔ ∃ V : Opens α, Disjoint V U ∧ x ∈ V := by
+  simp [compl_eq_sSup_disjoint]
+
+theorem compl_eq_interior_compl {U : Opens α} : Opens.interior (U : Set α)ᶜ = Uᶜ := by
```
Comment (eric-wieser) [inline Mathlib/Topology/Sets/Opens.lean]:
```suggestion
theorem interior_compl {U : Opens α} : Opens.interior (U : Set α)ᶜ = Uᶜ := by
```

File: Mathlib/Topology/Sets/Opens.lean (hunk 1 above)
Comment (thomaskwaring) [reply Mathlib/Topology/Sets/Opens.lean]: ok makes sense, thanks!

File: Mathlib/Topology/Sets/Opens.lean [hunk 3]
```diff
@@ -256,6 +256,21 @@ def frameMinimalAxioms : Frame.MinimalAxioms (Opens α) where
 
 instance instFrame : Frame (Opens α) := fast_instance% .ofMinimalAxioms frameMinimalAxioms
 
+theorem mem_himp {U V : Opens α} {x : α} : x ∈ U ⇨ V ↔ ∃ W : Opens α, W ⊓ U ≤ V ∧ x ∈ W := by
+  simp [himp_eq_sSup]
+
+theorem himp_def {U V : Opens α} : U ⇨ V = Opens.interior ((U : Set α)ᶜ ∪ V) := by
```
Comment (eric-wieser) [inline Mathlib/Topology/Sets/Opens.lean]: Another good lemma to have would be
```suggestion
theorem coe_himp {U V : Opens α} : ↑(U ⇨ V) = interior ((U : Set α) ⇨ V) := by
```

Comment (thomaskwaring) [reply Mathlib/Topology/Sets/Opens.lean]: good point — i've added this (and the compl equivalent) on top of what we already have, and rephrased in terms of the himp on `Set α`, does that seem right to you? i'm also not sure about the ordering on `coe_compl`, let me know which way would be better. thanks for your help!

File: Mathlib/Topology/Sets/Opens.lean [hunk 4]
```diff
@@ -275,7 +275,7 @@ theorem mem_compl {U : Opens α} {x : α} : x ∈ Uᶜ ↔ ∃ V : Opens α, Dis
 theorem interior_compl {U : Opens α} : Opens.interior (U : Set α)ᶜ = Uᶜ := by
   simp [←himp_bot, himp_def]
 
-theorem coe_compl {U : Opens α} : ↑(Uᶜ) = interior (U : Set α)ᶜ := by
```
Comment (eric-wieser) [inline Mathlib/Topology/Sets/Opens.lean:278]: What was the name clash here?

Comment (thomaskwaring) [reply Mathlib/Topology/Sets/Opens.lean:278]: in Topology/Sets/Closeds there's `Opens.compl : Opens α → Closeds α` and an associated `Opens.coe_compl`

**Review by j-loreaux — COMMENTED** [review]
Thanks

bors merge
